US08497265B2
Preparation P10.1: 3-Methyl-4-(4,4,5,5-Tetramethyl-1,3,2-Dioxaborolan-2-yl)Pyridine
To a solution of 4-bromo-3-methyl-pyridine (170 mg, 1.0 mmol), 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi(1,3,2-dioxaborolane) (254 mg, 1.0 mmol) and KOAc (180 mg, 2.0 mmol) in 1,4-dioxane (10 mL) was added Pd(dppf)Cl2 (73 mg, 0.1 mmol) then the reaction mixture was stirred at 110° C. under N2 atmosphere overnight. The reaction mixture was filtered through CELITE® and washed with CH2Cl2 (30 mL). The filtrate was concentrated and the crude product was purified by silica gel column to give the product (105 mg, 0.50 mmol, yield 60%). ESI-MS (M+1): 220 calc. for C12H18BNO2 219.

reactant | 4-bromo-3-methyl-pyridine | 1.0 mmol, 170 mg | BrC1=C(C=NC=C1)C | C6H6BrN
reactant | 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi(1,3,2-dioxaborolane) | 1.0 mmol, 254 mg | CC1(OB(OC1(C)C)B1OC(C(O1)(C)C)(C)C)C | C12H24B2O4
reactant | KOAc | 2.0 mmol, 180 mg | CC(=O)[O-].[K+]
solvent | 1,4-dioxane | 10 mL | O1CCOCC1 | C4H8O2
catalyst | Pd(dppf)Cl2 | 0.1 mmol, 73 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 3-Methyl-4-(4,4,5,5-Tetramethyl-1,3,2-Dioxaborolan-2-yl)Pyridine | 0.50 mmol, 105 mg, yield 60% | CC=1C=NC=CC1B1OC(C(O1)(C)C)(C)C | C12H18BNO2
